US08440830B2
To a solution of N,N-dimethylbenzene-1,4-diamine (1.0 eq) in dichloromethane, triethylamine (2.2 eq) was added at 0° C. and stirred for 15 min. To the above mixture was then added a solution of acetic anhydride (1.0 eq) in dichloromethane at 0° C., after addition the reaction was continued at room temperature for 5 hrs. Water was added and the organic layer was separated, dried over anhydrous Na2SO4, concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded the desired N-[4-(dimethylamino)phenyl]acetamide. (Yield=69%)

reactant | N,N-dimethylbenzene-1,4-diamine | 1.0 eq | CN(C1=CC=C(C=C1)N)C | C8H12N2
reactant | triethylamine | 2.2 eq | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.0 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-(dimethylamino)phenyl]acetamide | Yield=69% | CN(C1=CC=C(C=C1)NC(C)=O)C | C10H14N2O
